US08791132B2
To a degassed solution of 1-(6-bromo-pyridin-3-yl)-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethanol (1 g, 2.5 mmol) in DMF (10 mL) were added Pd(PPh3)4 (0.173 g, 0.15 mmol) and zinc cyanide (585 mg, 5.0 mmol) and the reaction mixture was stirred at 150° C. for 2 h. The reaction mixture was cooled to RT, diluted with EtOAc (250 mL) and filtered. The filtrate was washed with water (3×100 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by reverse phase HPLC to yield 5-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-pyridine-2-carbonitrile (350 mg). 1H NMR (CDCl3, freebase) δ (ppm): 8.55 (s, 1H), 7.38 (d, 1H), 7.23 (d, 1H), 6.93 (s, 1H), 6.81 (s 1H), 6.74 (s,1H), 4.96 (m, 1H), 4.11 (dd, 2H), 3.29 (dd, 2H), 2.95 (m, 1H), 2.88 (m 1H), 2.86 (m, 2H), 2.5 (s, 6H). Separation by chiral HPLC provided enantiomers 140a and 140b.

reactant | 1-(6-bromo-pyridin-3-yl)-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethanol | 2.5 mmol, 1 g | BrC1=CC=C(C=N1)C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)O | C20H22BrN3O
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.15 mmol, 0.173 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 5.0 mmol, 585 mg | [C-]#N.[Zn+2].[C-]#N
product | 5-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-pyridine-2-carbonitrile | 350 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C=2C=CC(=NC2)C#N)CC1 | C21H22N4O
